US07566707B2
2-bromo-7-hydroxy-3-(3-methyl-2-buten-1-yl)-3,5,6,7-tetrahydro-imidazo[4,5-c]pyridin-4-one
90 ml of water and 5.40 g iron powder are added to 4.15 g methyl 2-bromo-5-(1-hydroxy-2-nitro-ethyl)-3-(3-methyl-2-buten-1-yl)-3H-imidazole-4-carboxylate in 270 ml of ethanol. The mixture is refluxed, combined with 36 ml glacial acetic acid and stirred for one and a half hours at reflux temperature. The cooled reaction solution is filtered through Celite. The filtrate is evaporated down, combined with ethanol and made basic with solid potassium carbonate. The mixture is stirred for three hours at 60° C. Then the ethanol is distilled off, the flask residue is combined with water and extracted with ethyl acetate. The combined extracts are dried over magnesium sulphate and evaporated down. The crude product is purified by chromatography over a silica gel column with methylene chloride/methanol (1:1 to 7:1) as eluant.

reactant | water | 90 ml | O | H2O
reactant | methyl 2-bromo-5-(1-hydroxy-2-nitro-ethyl)-3-(3-methyl-2-buten-1-yl)-3H-imidazole-4-carboxylate | 4.15 g | BrC1=NC(=C(N1CC=C(C)C)C(=O)OC)C(C[N+](=O)[O-])O | C12H16BrN3O5
reactant | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 270 ml | C(C)O | C2H6O
catalyst | iron | 5.40 g | [Fe] | Fe
product | 2-bromo-7-hydroxy-3-(3-methyl-2-buten-1-yl)-3,5,6,7-tetrahydro-imidazo[4,5-c]pyridin-4-one | BrC1=NC2=C(C(NCC2O)=O)N1CC=C(C)C | C11H14BrN3O2
